US09163021B2
1-Cyclopropyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester
Cyclopropyl boronic acid (11 g, 127 mmol), Copper acetate (17.4 g, 95.7 mmol), Pyridine (17.7 g, 223 mmol) and triethylamine (22.4 mL, 160 mmol) were added successively to a solution of ethyl 5-(trifluoromethyl)-1H-pyrazole-4-carboxylate (Preparation 100, 6.63 g, 31.9 mmol) in THF (70 mL) and the resulting mixture was allowed to stir at 60° C. for 36 hours. The reaction mixture was filtered over a celite bed and filtrate was concentrated in vacuo and diluted with EtOAc (200 mL). The organic layer was washed with 1N HCl (1×25 mL), brine (1×25 mL) and dried (Na2SO4) and evaporated in vacuo. The crude material was purified by silica gel column chromatography eluting with Hexane:EtOAc 85:15 to afford the title compound as brown solid (29%, 2.3 g).

reactant | Cyclopropyl boronic acid | 127 mmol, 11 g | C1(CC1)B(O)O | C3H7BO2
reactant | Pyridine | 223 mmol, 17.7 g | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 160 mmol, 22.4 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 31.9 mmol, 6.63 g | FC(C1=C(C=NN1)C(=O)OCC)(F)F | C7H7F3N2O2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
catalyst | Copper acetate | 95.7 mmol, 17.4 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-Cyclopropyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 2.3 g, 29% | C(C)OC(=O)C=1C(=NN(C1)C1CC1)C(F)(F)F | C10H11F3N2O2
